US06174898B1
(R)-1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride
(R)-1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (1.20 g, 0.00275 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (10 ml) and 12 N sodium hydroxide solution (0.7 ml) was introduced. After stirring the solution at room temperature for 5 h, 37% hydrochloric acid solution was added until pH 1. Dichloromethane (250 ml) was introduced, and the mixture was dried (Na2SO4), filtered and evaporated to a residue, which was co-evaporated with acetone. Recrystallization from acetone provided the title compound (0.85 g, 70%) as a white solid.

reactant | (R)-1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCOC=C(C1=C(C=CC=C1)CC)C1=C(C=CC=C1)CC | C28H37NO3
reactant | sodium hydroxide | 12 N, 0.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | Dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (R)-1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride | 0.85 g, 70% | Cl.C(C)C1=C(C=CC=C1)C(=COCCN1C[C@@H](CCC1)C(=O)O)C1=C(C=CC=C1)CC | InChI=1S/C26H33NO3.ClH/c1-3-20-10-5-7-13-23(20)25(24-14-8-6-11-21(24)4-2)19-30-17-16-27-15-9-12-22(18-27)26(28)29;/h5-8,10-11,13-14,19,22H,3-4,9,12,15-18H2,1-2H3,(H,28,29);1H/t22-;/m1./s1
